US05569654
3-Amino-2,3-dihydro-N.5-dimethyl-2-oxo-N-phenyl-1H-1,4-benzo diazepine-1-acetamide
A mixture of 5% palladium on carbon (300 mg) and phenylmethyl [2,3-dihydro-5-methyl-1-[2-(methylphenylamino)-2-oxoethyl]-2-oxo-1H-1,4-benzodiazepin-3-yl]carbamate (500 mg) in MeOH-water 4:1(40 ml) at 40° under nitrogen was treated with ammonium formate (201 mg) and the mixture stirred at 40° for 1 h. The mixture was cooled to 23° and was filtered through hyflo. The filtrate was evaporated in vacuo and the residue partitioned between 2 N sodium carbonate solution and chloroform. The organic phase was dried and the solvent evaporated in vacuo. The residue was purified by chromatography, elution with MeOH-DCM (1:9) gave the title compound(302 mg).

reactant | phenylmethyl [2,3-dihydro-5-methyl-1-[2-(methylphenylamino)-2-oxoethyl]-2-oxo-1H-1,4-benzodiazepin-3-yl]carbamate | 500 mg | CC1=NC(C(N(C2=C1C=CC=C2)CC(=O)N(C2=CC=CC=C2)C)=O)NC(OCC2=CC=CC=C2)=O | C27H26N4O4
reactant | ammonium formate | 201 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | MeOH water | 40 ml | CO.O
product | 3-Amino-2,3-dihydro-N.5-dimethyl-2-oxo-N-phenyl-1H-1,4-benzo diazepine-1-acetamide | 302 mg | NC1C(N(C2=C(C(=N1)C)C=CC=C2)CC(=O)N(C2=CC=CC=C2)C)=O | C19H20N4O2
